US07939524B2
c) Methyl (1S,2R,3S,4R)-3-aminobicyclo[2.2.1]heptane-2-carboxylate Hydrochloride
Methyl (1R,2R,3S,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate (1 g, 3.32 mmol) was dissolved in ethyl acetate (15 mL). 5% Palladium on carbon (120 mg) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h. The mixture was passed through a plug of Celite and the filtrate was concentrated in vacuo to afford a thick clear oil. The oil was dissolved in diethyl ether (10 mL) and added dropwise, with vigorous stirring, to a mixture of 4.0 M hydrochloric acid solution in 1,4-dioxane (1.8 mL) in diethyl ether (18 mL). The desired product began to precipitate as a white solid. Additional diethyl ether (10 mL) was added and the mixture was stirred for 10 min. The precipitate was collected by vacuum filtration, washed with additional diethyl ether (2×8 mL). The solid was further dried in vacuo for 1 h to afford the desired product, methyl (1S,2R,3S,4R)-3-aminobicyclo[2.2.1]heptane-2-carboxylate hydrochloride (0.64 g, 3.11 mmol, 94%), as a white powder. 1H NMR (400 MHz, DMSO-d6) δ: 1.17-1.27 (3H, m), 1.40-1.61 (2H, m), 1.91 (1H, d, J=10.7 Hz), 2.36 (1H, d, J=4.1 Hz), 2.44 (1H, d, J=3.1 Hz), 2.75 (1H, d, J=7.8 Hz), 3.30-3.38 (1H, m), 3.61 (3H, s), 8.05 (3H, bs). LC-MS (ESI) calcd for C9H15NO2 (free amine) 169.11, found 170.3 [M+H+] (100%), 339.3 [2M+H+] (50%).

reactant | Methyl (1R,2R,3S,4S)-3-{[(benzyloxy)carbonyl]amino}bicyclo[2.2.1]hept-5-ene-2-carboxylate | 3.32 mmol, 1 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]([C@H]2C=C[C@@H]1C2)C(=O)OC | C17H19NO4
reactant | hydrochloric acid | 4.0 M | Cl | ClH
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 120 mg | [Pd] | Pd
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 18 mL | C(C)OCC | C4H10O
product | Methyl (1S,2R,3S,4R)-3-aminobicyclo[2.2.1]heptane-2-carboxylate Hydrochloride | Cl.N[C@@H]1[C@@H]([C@H]2CC[C@@H]1C2)C(=O)OC | InChI=1S/C9H15NO2.ClH/c1-12-9(11)7-5-2-3-6(4-5)8(7)10;/h5-8H,2-4,10H2,1H3;1H/t5-,6+,7+,8-;/m0./s1
